* D:\Program Files (xtra)\all\CoolStuff\audio-power-amplifier\Simulations\LTSpice\Transformer.asc
L1 N002 0 22.96 Rser=1
L2 0 N001 1 Rser=1
V1 N002 0 SINE(0 169.7 60) Rser=0
L3 0 N003 1
D1 N001 V+ D
D2 V- N001 D
D3 0 V+ D
D4 V- 0 D
D5 N003 N004 D
D6 N005 N003 D
D7 0 N004 D
D8 N005 0 D
C1 V+ 0 1m
C2 0 V- 0.1n
.model D D
.lib C:\Users\Eren\Documents\LTspiceXVII\lib\cmp\standard.dio
K1 L1 L2 L3 1
.tran 100m
.backanno
.end
